US06486340B2
N-ethyl-N-methylaniline (1 mmol), RuCl3-nH2O (0.05 mmol) and sodium cyanide (1.2 mmol) were charged into a 25-ml side-arm flask, the interior of the reacting container was replaced by oxygen, and an oxygen balloon was attached to supply oxygen at 1 atm. Then, 1.7 ml of a mixed solvent of methanol-acetic acid (volume ratio 3/1) was added thereto at room temperature. Reaction was effected by stirring the mixed liquid at 60° C. for 24 hours. After the reaction mixture liquid was made alkaline with the addition of saturated sodium bicarbonate aqueous solution, the mixture was extracted with 10 ml ethyl acetate once and with 5 ml ethyl acetate twice. The extracted liquid thus obtained was washed with saturated saline solution, and dried over sodium sulfate, thereby obtaining an ethyl acetate solution of N-phenyl-N-ethylaminoacetonitrile and 2-(N-methyl-N-phenylamino)propionitrile. This solution was analyzed by a gas chromatography internal standard method, which revealed the conversion rate of N-ethyl-N-methylaniline being 70% with a yield of N-phenyl-N-ethylaminoacetonitrile being 57% (vs. N-ethyl-N-methylaniline) and that of 2-(N-methyl-N-phenylamino)propionitrile being 7% (vs. N-ethyl-N-methylaniline).

reactant | N-ethyl-N-methylaniline | 1 mmol | C(C)N(C1=CC=CC=C1)C | C9H13N
reactant | sodium cyanide | 1.2 mmol | [C-]#N.[Na+]
reactant | oxygen | O=O | O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methanol acetic acid | CO.C(C)(=O)O
product | 2-(N-methyl-N-phenylamino)propionitrile | CN(C1=CC=CC=C1)C(C#N)C | C10H12N2
